US05478845
1-[3-(3, 4,5-trimethoxyphenylcarbamoyloxy)-propyl]-4-(6-fluoro-1-methyl-1H -indazol-3-yl)piperidine
Starting from 4-(6-fluoro-1-methyl-1H-indazol-3-yl)-1-(3-hydroxyprop-1-yl)piperidine (300 mg, 1.03 mmol) and 3,4,5-trimethoxyphenylisocyanate (300 mg, 1.44 mmol) using the procedure described in example 1B was prepared 350 mg (68%) of the title compound. M.p. 85°-88° C.

reactant | 4-(6-fluoro-1-methyl-1H-indazol-3-yl)-1-(3-hydroxyprop-1-yl)piperidine | 1.03 mmol, 300 mg | FC1=CC=C2C(=NN(C2=C1)C)C1CCN(CC1)CCCO | C16H22FN3O
reactant | 3,4,5-trimethoxyphenylisocyanate | 1.44 mmol, 300 mg | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
product | 1-[3-(3, 4,5-trimethoxyphenylcarbamoyloxy)-propyl]-4-(6-fluoro-1-methyl-1H -indazol-3-yl)piperidine | 350 mg, 68% | COC=1C=C(C=C(C1OC)OC)NC(=O)OCCCN1CCC(CC1)C1=NN(C2=CC(=CC=C12)F)C | C26H33FN4O5
